US04959368
A mixture composed of 20 g (56.1 mmoles) of ethyl 2-(4-benzylpiperazino)-4-hydroxypyrimidine-5-acetate (prepared in accordance with Referential Example 70 of Japanese Laid-Open Patent Publication No. 140568/1986), 7.5 g (114 moles) of 85% KOH tablets and 320 ml of ethanol was refluxed for 1 hour. The reaction mixture was concentrated to a solid. Hydrochloric acid and saturated aqueous sodium bicarbonate solution were added to adjust the pH to 4, and the mixture was again concentrated. The resulting crude crystals were recrystallized from water to give 17 g (yield 92%) of 2-(4-benzylpiperazino)-4-hydroxypyrimidine-5-acetic acid as a colorless solid.

reactant | ethyl 2-(4-benzylpiperazino)-4-hydroxypyrimidine-5-acetate | 56.1 mmoles, 20 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)O)CC(=O)OCC | C19H24N4O3
reactant | KOH | 114 moles, 7.5 g | [OH-].[K+]
solvent | ethanol | 320 ml | C(C)O | C2H6O
product | 2-(4-benzylpiperazino)-4-hydroxypyrimidine-5-acetic acid | 17 g, yield 92% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)O)CC(=O)O | C17H20N4O3
